US07528129B2
14a) 2-methyl-6-trifluoromethyl-phenylamine
A suspension of 50 g (0.24 mol) 1-methyl-2-nitro-3-trifluoromethyl-benzene and 4.4 g 10% Pd/C in 300 mL MeOH was hydrogenated at RT and 3000 hPa hydrogen pressure until the theoretical amount of hydrogen had been taken up. The catalyst was filtered off, washed with MeOH and the filtrate was evaporated down. The crude product was further reacted without purification.

reactant | 1-methyl-2-nitro-3-trifluoromethyl-benzene | 0.24 mol, 50 g | CC1=C(C(=CC=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 300 mL | CO | CH4O
catalyst | Pd/C | 4.4 g | [Pd] | Pd
product | 2-methyl-6-trifluoromethyl-phenylamine | CC1=C(C(=CC=C1)C(F)(F)F)N | C8H8F3N
